US07105563B2
Alternatively, a mixture of 5-aminosulfonylindolin-2-one (0.22 g, 1.0 mmol), 2-(ethylamino)carbonylcarbonylpyrrole (0.33 g, 2.0 mmol) and piperidine (0.2 mL, 2.0 mmol) was irradiated in a microwave at 160° C. for 5 minutes. The reaction mixture was dissolved in dichloromethane (25 mL). The resulting mixture was washed with 0.2 N HCl (25 mL) and saturated sodium bicarbonate (25 mL), dried (magnesium sulfate) and concentrated. Chromatography on SiO2 (10 g) using hexane/ethyl acetate afforded 5-aminosulfonyl-3-[(pyrrol-2-yl)(ethylaminocarbonyl)methylene]indolin-2-one; (45 mg), 1H NMR (400 MHz, DMSO-d6) δ 1.16 (t, 3H), 3.36 (q, 2H), 6.40 (s, 1H), 6.64 (s, 1H), 7.02 (d, 1H), 7.20 (brs, 2H), 7.42 (s, 1H), 7.64 (d, 1H), 7.75 (s, 1H), 8.85 (t, 1H), 11.40 (s, 1H) ppm.

reactant | 5-aminosulfonylindolin-2-one | 1.0 mmol, 0.22 g | NS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H8N2O3S
reactant | 2-(ethylamino)carbonylcarbonylpyrrole | 2.0 mmol, 0.33 g | C(C)NC(=O)C(=O)C=1NC=CC1 | C8H10N2O2
reactant | piperidine | 2.0 mmol, 0.2 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-aminosulfonyl-3-[(pyrrol-2-yl)(ethylaminocarbonyl)methylene]indolin-2-one | NS(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=C(C(=O)NCC)C=1NC=CC1 | C16H16N4O4S
